* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
*   mismatch {
*   }
* }
* 4-terminal Vertical Parallel Plate Capacitor /w LI-M4 fingers and M5 Shield
* Layout: sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldm5
.subckt  sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldm5 c0 c1 b m5
+ 
.param  mult = 1.0
+ 
+ ctot_a = {137.45e-15*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldm5__cor+1.45*0.00244/sqrt(mult/0.23367)*137.45e-15*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldm5__cor*sky130_fd_pr__model__cap_vpp_only_p__slope}
+ cm5_c0 = {5.11e-15*c0m5m4_vpp}
+ cm5_c1 = {3.89e-15*c1m5m4_vpp}
+ c0_sub = {(5.36e-15-0.58e-15)*cli2s_vpp}
+ c1_sub = {2.34e-15*cli2s_vpp}
+ rat_m4 = 0.1120
+ rat_m3 = 0.1120
+ rat_m2 = 0.2966
+ rat_m1 = 0.2931
+ rat_li = 0.1863
+ cap_m4 = {rat_m4*ctot_a}
+ cap_m3 = {rat_m3*ctot_a}
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_li = {rat_li*ctot_a}
+ ll1 = 5.070
+ lm1 = 5.215
+ lm2 = 5.095
+ lm3 = 5.050
+ lm4 = 4.910
+ wl1 = 0.170
+ wm1 = 0.140
+ wm2 = 0.140
+ wm3 = 0.300
+ wm4 = 0.300
+ nfl1 = 62.0
+ nfm1 = 72.0
+ nfm2 = 72.0
+ nfm3 = 34.0
+ nfm4 = 34.0
+ nvia3_c0 = 103.0
+ nvia3_c1 = 49.0
+ nvia2_c0 = 104.0
+ nvia2_c1 = 49.0
+ nvia_c0 = 124.0
+ nvia_c1 = 62.0
+ ncon_c0 = 116.0
+ ncon_c1 = 28.0
ccmvpp11p5x11p7_m5shield m5 a0  c = {cm5_c0}
cm5_1 m5 a1 c = {cm5_c1}
rsm4 a0 a2 r = {rm4*lm4/wm4*(1/3)*(1/nfm4)}
cm4 a2 a1 c = {cap_m4}
rvia3_0 a0 b0 r = {rcvia3/nvia3_c0}
rvia3_1 a1 b1 r = {rcvia3/nvia3_c1}
rsm3 b0 b2 r = {rm3*lm3/wm3*(1/3)*(1/nfm3)}
cm3 b2 b1 c = {cap_m3}
rvia2_0 b0 c0 r = {rcvia2/nvia2_c0}
rvia2_1 b1 c1 r = {rcvia2/nvia2_c1}
rsm2 c0 c2 r = {rm2*lm2/wm2*(1/3)*(1/nfm2)}
cm2 c2 c1 c = {cap_m2}
rvia_0 c0 d0 r = {rcvia/nvia_c0}
rvia_1 c1 d1 r = {rcvia/nvia_c1}
rsm1 d0 d2 r = {rm1*lm1/wm1*(1/3)*(1/nfm1)}
cm1 d2 d1 c = {cap_m1}
rcon1 d0 e0 r = {rcl1/ncon_c0}
rcon2 d1 e1 r = {rcl1/ncon_c1}
rli1 e0 e2 r = {rl1*ll1/wl1*(1/3)*(1/nfl1)}
cli e2 e1 c = {cap_li}
cli2b_0 e0 b c = {c0_sub}
cli2b_1 e1 b c = {c1_sub}
.ends sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldm5
